US06376412B1
lithium 4-[3′,5′-bis(trifluoromethyl)phenyl]-2-methylindenide
4-[3′,5′-bis(trifluoromethyl)phenyl]-2-methylindene (2.2 g, 6.5 mmol) was dissolved in 50 mL of pentane. To this solution was added 2.6 mL of n-BuLi (2.5M in hexane) and the reaction was allowed to stir 4 hours at room temperature. A yellow-white solid precipitated from solution and was collected by frit filtration and washed with additional pentane. Yield was 1.6 g (73%).

reactant | 4-[3′,5′-bis(trifluoromethyl)phenyl]-2-methylindene | 6.5 mmol, 2.2 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=C2C=C(CC2=CC=C1)C)(F)F | C18H12F6
reactant | n-BuLi | 2.5M, 2.6 mL | [Li]CCCC
solvent | pentane | 50 mL | CCCCC | C5H12
product | lithium 4-[3′,5′-bis(trifluoromethyl)phenyl]-2-methylindenide | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=C2C=C([CH-]C2=CC=C1)C)(F)F.[Li+] | InChI=1S/C18H11F6.Li/c1-10-5-11-3-2-4-15(16(11)6-10)12-7-13(17(19,20)21)9-14(8-12)18(22,23)24;/h2-9H,1H3;/q-1;+1
